US08664220B2
Step 1: 3-(6-Bromo-pyridin-2-yl)-oxazolidin-2-one
Prepared according to the procedure described in Example 139, Step 1, using 2,6-dibromo-pyridine and oxazolidin-2-one.

reactant | 2,6-dibromo-pyridine | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | oxazolidin-2-one | O1C(NCC1)=O | C3H5NO2
product | 3-(6-Bromo-pyridin-2-yl)-oxazolidin-2-one | BrC1=CC=CC(=N1)N1C(OCC1)=O | C8H7BrN2O2
